US07507734B2
99.5 g 4-Acetylpyridine is added to a cold (10° C.) solution of 222.4 potassium carbonate and 76.3 glyoxylic acid monohydrate in 1 L of water and the solution stirred at room temperature for 2.5 h. After cooling in to 0° C., 325 ml of acetic acid are added followed by 58.8 ml hydrazine hydrate, and the resulting solution stirred under reflux for 1.5 h. The solution is then cooled to 0° C., the pH adjusted to 7 with solid K2CO3, the precipitate collected and washed with water and i-PrOH to give 89.27 g (64%) of 6-Pyridin-4-yl-2H-pyridazin-3-one.

reactant | 4-Acetylpyridine | 99.5 g | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | glyoxylic acid monohydrate | O.C(C=O)(=O)O
reactant | hydrazine hydrate | 58.8 ml | O.NN
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 1 L | O | H2O
solvent | acetic acid | 325 ml | C(C)(=O)O | C2H4O2
product | 6-Pyridin-4-yl-2H-pyridazin-3-one | 89.27 g, 64% | N1=CC=C(C=C1)C=1C=CC(NN1)=O | C9H7N3O
